US09357779B2
1-(2-Ethoxyphenyl)-3-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]prop-2-yn-1-one (I-11)
At room temperature and under an atmosphere of argon, palladium(II) chloride (5.8 mg) and copper(I) iodide were added to a solution of 1-[4-(4-ethynyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (250 mg) and 2-ethoxybenzoyl chloride in tetrahydrofuran. The mixture was stirred at room temperature for 1 minute, and triethylamine (83 mg) was then added. The reaction mixture was stirred at room temperature overnight. 5 g of silica gel were then added, and the solvent was removed under reduced pressure. The residue was purified chromatographically. This gave 1-(2-ethoxyphenyl)-3-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]prop-2-yn-1-one (244 mg).

reactant | 1-[4-(4-ethynyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | 250 mg | C(#C)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C17H17F3N4OS
reactant | 2-ethoxybenzoyl chloride | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
reactant | triethylamine | 83 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium(II) chloride | 5.8 mg | [Pd](Cl)Cl
catalyst | copper(I) iodide | [Cu]I
product | 1-(2-Ethoxyphenyl)-3-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]prop-2-yn-1-one | C(C)OC1=C(C=CC=C1)C(C#CC=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O)=O | C26H25F3N4O3S
